US07846950B2
[2,6-Difluoro-4-(thiazol-4-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedures D and E using 2,6-difluoro-4-hydroxy-benzoic acid methyl ester [CAS 194938-88-0], 4-(chloromethyl)thiazole hydrochloride [CAS 7709-58-2], and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 422.2

reactant | 2,6-difluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1F)O)F)=O | C8H6F2O3
reactant | 4-(chloromethyl)thiazole hydrochloride | Cl.ClCC=1N=CSC1
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2,6-Difluoro-4-(thiazol-4-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C(=CC(=C1)OCC=1N=CSC1)F)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C21H25F2N3O2S
